US06451810B1
1-(4-Aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (99.6 mg, 0.39 mmol) and 2-(4-benzoylphenoxy)acetic acid (100 mg, 0.39 mmol) were combined in pyridine (10 mL). The mixture was warmed until homogeneous and then allowed to cool. 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (82 mg, 0.43 mole) was added. The reaction mixture was maintained at ambient temperature overnight and then concentrated under vacuum. The residue was partitioned between chloroform and saturated potassium carbonate solution. The layers were separated. The aqueous layer was extracted with chloroform. The organic layers were combined, dried over magnesium sulfate and then concentrated under vacuum to provide a gold oil. The oil was purified by column chromatography (silica gel eluting with 10% methanol in dichloromethane) to provide about 70 mg of N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-(4-benzoylphenoxy)acetamide as a white solid, m.p. 73-98° C. 1H NMR (500 MHz, DMSO-d6) δ8.22 (t, J=6.0 Hz, 1H), 8.18 (s, 1H), 8.03 (d, J=8.3 Hz, 1H), 7.73 (d, J=8.0 Hz, 2H), 7.68 (d, J=8.0 Hz, 2H), 7.65 (t, J=8.0 Hz, 1H), 7.60 (dd, J=8.0, 1.0 Hz, 1H), 7.55 (t, J=8.0 Hz, 2H), 7.42 (dt, J=8.0, 1.0 Hz, 1H), 7.25 (t, J=8.0, 1.0 Hz, 1H), 7.07 (d, J=8.0 Hz, 2H), 6.58 (broad s, 2H), 4.61 (t, J=7.0 Hz, 2H), 4.56 (s, 2H), 3.18 (q, J=6.0 Hz, 2H), 1.86 (quintet, J=7.0 Hz, 2H), 1.50 (quintet, J=7.0 Hz, 2H); MS (EI) m/e 493.2106 (493.2114 calcd for C29H27N5O3).

reactant | 1-(4-Aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.39 mmol, 99.6 mg | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 2-(4-benzoylphenoxy)acetic acid | 0.39 mmol, 100 mg | C(C1=CC=CC=C1)(=O)C1=CC=C(OCC(=O)O)C=C1 | C15H12O4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.43 mole, 82 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-(4-benzoylphenoxy)acetamide | about 70 mg | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(COC2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O | C29H27N5O3
